US03957480
A reaction mixture consisting of a solution of 13.7 g. (0.057 mole) 4,5 -dibromo-3-methylpyrazole in 200 ml. acetone and 15.7 g. (0.114 mole) anhydrous potassium carbonate was heated at the reflux temperature with continuous stirring for 15 minutes. After cooling, 10.4 g. (0.06 mole) ethyl 2-bromopropionate was added. This reaction mixture was then heated at the reflux temperature for 2.5 hours. It was cooled and filtered. The acetone was then removed by evaporation under reduced pressure, and the residue thus obtained was dissolved in hot hexane. After chilling in a refrigerator the crystals that had formed were collected on a filter. There was thus obtained 14.5 g. (75% yield) of ethyl 3,4 -dibromo-α, 5-dimethylpyrazole-1-acetate having a melting point at 61° to 62° C.

reactant | 4,5 -dibromo-3-methylpyrazole | 0.057 mole | BrC=1C(=NNC1Br)C | C4H4Br2N2
reactant | acetone | CC(=O)C | C3H6O
reactant | potassium carbonate | 0.114 mole | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl 2-bromopropionate | 0.06 mole | BrC(C(=O)OCC)C | C5H9BrO2
solvent | hexane | CCCCCC | C6H14
product | ethyl 3,4 -dibromo-α, 5-dimethylpyrazole-1-acetate | 75% yield | BrC1=NN(C(=C1Br)C)C(C(=O)OCC)C | C9H12Br2N2O2
